US06326372B1
Step 6: 6-(3,4-Difluorophenyl)-3,3-dimethylpiperidin-2-one
Ammonium acetate (36.62 g, 475.1 mmol) was dissolved in 200 mL of methanol. To this solution was added methyl-5-(3,4-difluorophenyl)-2,2-dimethyl-5-oxopentanoate (12.76 g, 47.2 mmol) and sodium cyanoborohydride (2.96 g, 47.1 mmol). This reaction mixture was stirred at ambient temperature for 24 hours. Another portion of sodium cyanoborohydride (1.50 g, 23.9 mmol) was added, and the mixture was stirred at ambient temperature for another 66 hours. The reaction mixture was concentrated in vacuo, and the residue was partitioned between dichloromethane and saturated sodium carbonate. A 1.0M solution of aqueous sodium hydroxide was added to the aqueous phase to achieve a pH of 10. The phases were then separated, and the aqueous phase was extracted three more times with dichloromethane. The combined organic phases were then washed once with brine, dried over sodium sulfate, filtered, and the filtrate was evaporated to dryness. This residue was purified by “flash” chromatography (98:2 dichloromethane:methanol). The product fractions were evaporated to dryness to give the title compound as a solid.

reactant | Ammonium acetate | 475.1 mmol, 36.62 g | C(C)(=O)[O-].[NH4+]
reactant | methyl-5-(3,4-difluorophenyl)-2,2-dimethyl-5-oxopentanoate | 47.2 mmol, 12.76 g | COC(C(CCC(=O)C1=CC(=C(C=C1)F)F)(C)C)=O | C14H16F2O3
reactant | sodium cyanoborohydride | 47.1 mmol, 2.96 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 23.9 mmol, 1.50 g | C(#N)[BH3-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | 6-(3,4-Difluorophenyl)-3,3-dimethylpiperidin-2-one | FC=1C=C(C=CC1F)C1CCC(C(N1)=O)(C)C | C13H15F2NO
